US07235558B2
2-Amino-4-[(4-{[(4-amino-2-methyl-6-quinolinyl)carbonyl]amino}benzyl)amino]-6-methylpyrimidine
The solution of 27 mg (0.05 mmol) 4-{[(4-amino-2-methyl-6-quinolinyl)carbonyl]amino}benzylamine, 15 mg (0.1 mmol) 2-amino-4-chloro-6-methylpyrimidine, and 0.05 ml (0.3 mmol) diisopropyl ethylamine in 1 ml DMF was stirred at 120° C. for 5 h. After evaporation of the solvent the residue was purified by HPLC and lyophilized to yield 17 mg (51%) of the title compound. MS 414.3 (M+1)+, 1H-NMR (DMSO-d6) δ 2.19 (s, 3H), 2.60 (s, 3H), 4.56 (d, 2H), 5.94 (s, 1H), 6.65 (s, 1H), 7.33 (d, 2H), 7.75 (d, 2H), 7.88 (d, 1H), 8.35 (d, 1H), 8.97 (s, 1H), 8.96–9.01 (m, 2H), 10.51 (s, 1H), 12.30 (br. 1H), 13.60(br. 1H).

reactant | 4-{[(4-amino-2-methyl-6-quinolinyl)carbonyl]amino}benzylamine | 0.05 mmol, 27 mg | NC1=CC(=NC2=CC=C(C=C12)C(=O)NC1=CC=C(CN)C=C1)C | C18H18N4O
reactant | 2-amino-4-chloro-6-methylpyrimidine | 0.1 mmol, 15 mg | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | diisopropyl ethylamine | 0.3 mmol, 0.05 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-[(4-{[(4-amino-2-methyl-6-quinolinyl)carbonyl]amino}benzyl)amino]-6-methylpyrimidine | 17 mg, 51% | NC1=NC(=CC(=N1)NCC1=CC=C(C=C1)NC(=O)C=1C=C2C(=CC(=NC2=CC1)C)N)C | C23H23N7O
